US04065573
To a solution consisting of 42.71 gm. (0.139 mole) of the dimethyl ester of 4-(p-fluorophenyl)-4-cyanopimelic acid (prepared in Part A, above) and 900 ml. tetrahydrofuran is added 31.3 gm. (0.28 mole) potassium tert-butoxide. This reaction mixture is heated at the reflux temperature for 4 1/2 hours. It is allowed to cool. It is then chilled in ice and 225 ml. of 2.5 N aqueous acetic acid is added. The organic layer that forms is recovered and diluted with 750 ml. benzene. The benzene:tetrahydrofuran solution is washed successively with sodium bicarbonate, with water, and finally with brine. The solvents are then removed by evaporation under reduced pressure to give 35.6 gm. (93% yield) of 2-carbomethoxy-4-cyano-4-(p-fluorophenyl)cyclohexanone as a gum.

reactant | 4-(p-fluorophenyl)-4-cyanopimelic acid | FC1=CC=C(C=C1)C(CCC(=O)O)(CCC(=O)O)C#N | C14H14FNO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 0.28 mole | CC(C)([O-])C.[K+]
solvent | acetic acid | 2.5 N | C(C)(=O)O | C2H4O2
product | 2-carbomethoxy-4-cyano-4-(p-fluorophenyl)cyclohexanone | 93% yield | C(=O)(OC)C1C(CCC(C1)(C1=CC=C(C=C1)F)C#N)=O | C15H14FNO3
